US07919628B2
5.25 mL of dichloromethyl methyl ether were dissolved in 40 mL dichloromethane and cooled to +5° C. 6.75 mL tin(IV) chloride were added neat over 45 min to the solution. After the addition the mixture was stirred for 45 min at 5° C. 11.4 g 4-fluoro-1-methoxy-naphthalene in 30 mL dichloromethane was added over 1 h. Then the cooling bath was removed, and the mixture was stirred for 2 h at ambient temperature. It was then poured into ice/water. The dichloromethane layer was separated and the aqueous phase was extracted with dichloromethane. The combined dichloromethane layers were washed with water, dried over sodium sulfate, filtered through celite and concentrated in vacuo. The residue was treated with pentane to yield 9.3 g of 4-fluoro-1-methoxynaphthalene-2-carbaldehyde as a brown solid.

reactant | dichloromethyl methyl ether | 5.25 mL | COC(Cl)Cl | C2H4Cl2O
reactant | tin(IV) chloride | 6.75 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 4-fluoro-1-methoxy-naphthalene | 11.4 g | FC1=CC=C(C2=CC=CC=C12)OC | C11H9FO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-fluoro-1-methoxynaphthalene-2-carbaldehyde | 9.3 g | FC1=CC(=C(C2=CC=CC=C12)OC)C=O | C12H9FO2
